US04436748
To 9.6 g of ethyl[ (6,7-dichloro-2-isobutylbenzo[b]thien-5-yl)oxy]acetate in 75 ml of 95% ethanol is added 175 ml of a 6 N sodium hydroxide solution and the mixture is refluxed at 100° for 30 mins. The cooled mixture is concentrated in vacuo to give a slurry which is diluted with 500 ml of water and 500 ml of diethyl ether. With stirring and cooling, the mixture is acidified with 6 N hydrochloric acid. The acidic mixture is extracted with diethyl ether. The ether extracts are washed, dried over anhydrous magnesium sulfate, filtered and the solvent is removed. Recrystallization of the solid from diethyl ether and hexane gives 8.3 g of [(6,7-dichloro-2-isobutylbenzo[b]thien-5-yl)oxy]acetic acid, mp 164°-165°.

reactant | ethyl[ (6,7-dichloro-2-isobutylbenzo[b]thien-5-yl)oxy]acetate | 9.6 g | C(C)OC(COC1=CC2=C(SC(=C2)CC(C)C)C(=C1Cl)Cl)=O | C16H18Cl2O3S
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
product | [(6,7-dichloro-2-isobutylbenzo[b]thien-5-yl)oxy]acetic acid | 8.3 g | ClC=1C(=CC2=C(SC(=C2)CC(C)C)C1Cl)OCC(=O)O | C14H14Cl2O3S
